US04423070
A mixture of 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-dihydroxyacetophenone hydrobromide (1.0 g.) and butyric acid (6 ml.) was saturated at room temperature with gaseous hydrogen chloride during 3 minutes. Butyryl chloride (6 ml.) was then added and the mixture was stirred at 90°-95° C. for 1.5 hours, giving a clear solution after about 5 minutes. The solution was then concentrated to half volume by evaporation under reduced pressure and the residue was diluted with ether (25 ml.) to give 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-bis(butyryloxy)acetophenone hydrochloride as a solid precipitate (0.65 g.), m.p. 115°-117° C.

reactant | 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-dihydroxyacetophenone hydrobromide | 1.0 g | Br.C(C1=CC=CC=C1)N(CCNC(CC1=CC=CC=C1)=O)CC(=O)C1=CC(=C(C=C1)O)O
reactant | butyric acid | 6 ml | C(CCC)(=O)O | C4H8O2
reactant | hydrogen chloride | Cl | ClH
reactant | Butyryl chloride | 6 ml | C(CCC)(=O)Cl | C4H7ClO
product | 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-bis(butyryloxy)acetophenone hydrochloride | Cl.C(C1=CC=CC=C1)N(CCNC(CC1=CC=CC=C1)=O)CC(=O)C1=CC(=C(C=C1)OC(CCC)=O)OC(CCC)=O | InChI=1S/C33H38N2O6.ClH/c1-3-11-32(38)40-29-18-17-27(22-30(29)41-33(39)12-4-2)28(36)24-35(23-26-15-9-6-10-16-26)20-19-34-31(37)21-25-13-7-5-8-14-25;/h5-10,13-18,22H,3-4,11-12,19-21,23-24H2,1-2H3,(H,34,37);1H
